US07129238B2
(RS)-Ethoxy-phenyl-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-phenyl-acetamide. Light yellow semisolid. MS 295.3 ([M+H]+)

reactant | (RS)-Ethoxy-phenyl-acetic acid | C(C)OC(C(=O)O)C1=CC=CC=C1 | C10H12O3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-ethoxy-2-phenyl-acetamide | C(#N)C1=CC=C(CNC(C(C2=CC=CC=C2)OCC)=O)C=C1 | C18H18N2O2
